US07625929B2
1.3: trans-4-[4-(benzyl{(2S)-3-[4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy]-2-hydroxypropyl}amino)-cyclohexyl]benzoic acid
A mixture of 4.48 g (5.71 mmol) of ethyl 4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)-amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}benzoate and 38 ml of a 1N aqueous sodium hydroxide solution in 114 ml of ethanol is heated at 50° C. overnight. The solvents are evaporated, the medium is taken up in water and a 1N hydrochloric acid solution is gently added to pH=1. The medium is filtered and dried under vacuum. The title compound (4.05 g, 94%) is thus obtained in the form of a white solid (melting point=160° C.).

reactant | ethyl 4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)-amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}benzoate | 5.71 mmol, 4.48 g | C(C1=CC=CC=C1)N(C1CCC(CC1)C1=CC=C(C(=O)OCC)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C)O | C39H46N2O7S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | 114 ml | C(C)O | C2H6O
product | trans-4-[4-(benzyl{(2S)-3-[4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy]-2-hydroxypropyl}amino)-cyclohexyl]benzoic acid | 4.05 g, 94% | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)O)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C)O | C37H42N2O7S
